US07355052B2
Stage 4: methyl 1-{3-[(tert-butoxycarbonyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxylate
3,4,5-trimethoxyphenyl isothiocyanate (6.6 g, 1.2 eq) and diisopropylcarbodiimide (9.1 g, 3 eq) are successively added to a solution of methyl 4-amino-3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)benzoate (7.75 g, 1 eq) in tetrahydrofuran (130 ml). The mixture is heated under reflux for 16 hours then cooled down to ambient temperature and concentrated under reduced pressure at 40° C. Water (100 ml) and dichloromethane (200 ml) are added to the residue obtained. After decantation and extractions, the combined organic phases are washed with salt water, dried over Na2SO4 then concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: heptane/ethyl acetate 8:2 to 3:7) produces the expected compound in the form of a solid which is washed with ether (4.4 g; 36% yield).

reactant | 3,4,5-trimethoxyphenyl isothiocyanate | 6.6 g, 1.2 eq | COC=1C=C(C=C(C1OC)OC)N=C=S | C10H11NO3S
reactant | diisopropylcarbodiimide | 9.1 g, 3 eq | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | methyl 4-amino-3-({3-[(tert-butoxycarbonyl)amino]propyl}amino)benzoate | 7.75 g, 1 eq | NC1=C(C=C(C(=O)OC)C=C1)NCCCNC(=O)OC(C)(C)C | C16H25N3O4
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | methyl 1-{3-[(tert-butoxycarbonyl)amino]propyl}-2-[(3,4,5-trimethoxyphenyl)amino]-1H-benzimidazole-6-carboxylate | C(C)(C)(C)OC(=O)NCCCN1C(=NC2=C1C=C(C=C2)C(=O)OC)NC2=CC(=C(C(=C2)OC)OC)OC | C26H34N4O7
